US06011174
(2) Preparation of (2S*,4S)-2-[N-(carboxymethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,4-dicarboxylic acid
310 mg of 4-tert-butyl 2-ethyl (2S*,4S)-2-[N-(ethoxycarbonylmethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,4-dicarboxylate was dissolved in 4 ml of formic acid, followed by stirring at room temperature for 2 hours. The reaction solution was evaporated to dryness under reduced pressure, and then, the residue was dissolved in 6 ml of a 50% tetrahydrofuran aqueous solution. 3 ml of a 1N sodium hydroxide aqueous solution was added, followed by stirring at room temperature for 6 hours. The reaction solution was acidified with 1N hydrochloric acid and then extracted with ethyl ether. The organic layer was dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by medium pressure liquid chromatography (Lobar column™, Size B, RP-8, manufactured by Merck Co.; acetonitrile/0.1% trifluoroacetic acid aqueous solution=1/1) to obtain 216 mg (yield: 84%) of the above identified compound as a colorless foam.

reactant | 4-tert-butyl 2-ethyl (2S*,4S)-2-[N-(ethoxycarbonylmethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,4-dicarboxylate | 310 mg | C(C)OC(=O)CN(C(=O)[C@@]1(OC[C@H](O1)C(=O)OC(C)(C)C)C(=O)OCC)[C@@H]([C@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C39H47NO10
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | (2S*,4S)-2-[N-(carboxymethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,4-dicarboxylic acid | yield: 84% | C(=O)(O)CN(C(=O)[C@@]1(OC[C@H](O1)C(=O)O)C(=O)O)[C@@H]([C@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C31H31NO10
